US06184180B2
Synthesis of 11-(octadecylthio)undecanamide
In a 300 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 13.2 g of octadecanthiol, 14.3 g of 11-bromoundedanamide, 1.7 g of potassium iodide, 20.7 g of potassium carbonate and 100 ml of DMAc, and the mixture was stirred at 100° C. for 5 hours. After cooling the reaction mixture to room temperature, the reaction mixture was poured into ice-water and precipitated crystals were collected by filtration under reduced pressure, and washed with distilled water. The resulting crystals were recrystallized from IPA to obtain 16.4 g of the title compound. Melting point: 108° C.

reactant | octadecanthiol | 13.2 g | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | potassium iodide | 1.7 g | [I-].[K+]
reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMAc | 100 ml | CC(=O)N(C)C | C4H9NO
product | 11-(octadecylthio)undecanamide | 16.4 g | C(CCCCCCCCCCCCCCCCC)SCCCCCCCCCCC(=O)N | C29H59NOS
